US05482698
Example 8--Conjugation of biotin to a bifunctional chelating agent to form a conjugate useful to deliver an active metal agent therapeutic or detection agent.
Biotinylpentylamine (0.001 mol) and isothiocyanatobenzyl-diethylenetriamine-pentaacetic acid (ITC-DTPA, 0.001 mol) are mixed together in borate buffer, 0.1M, pH 8, and stirred for 3 hours at room temperature. The biotin-DTPA is purified on a C-18 reverse-phase HPLC column run in an acetonitrile/water gradient. The acetonitrile is removed under reduced pressure on a rotary evaporator and the water by lyophilization to give a white powdery product. The structure, biotinylpentylamino-thioureaylbenzyl-DTPA (biotin-DTPA) is confirmed by mass spectral and micro analysis.

reactant | Biotinylpentylamine | 0.001 mol | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)CCCCCN | C15H27N3O2S
reactant | borate | B([O-])([O-])[O-]
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
